US06969730B2
(2-fluorophenyl)(4-hydroxy-3-iodophenyl)methanone
(2-Fluorophenyl)(4-hydroxyphenyl)methanone, potassium iodide and iodine were processed as described in Example 68A to provide the title compound. MS (DCI) m/z 343 (M+H)+, 360 (M+NH4)+.

reactant | (2-Fluorophenyl)(4-hydroxyphenyl)methanone | FC1=C(C=CC=C1)C(=O)C1=CC=C(C=C1)O | C13H9FO2
reactant | potassium iodide | [I-].[K+]
reactant | iodine | II | I2
product | (2-fluorophenyl)(4-hydroxy-3-iodophenyl)methanone | FC1=C(C=CC=C1)C(=O)C1=CC(=C(C=C1)O)I | C13H8FIO2
